US06635633B2
G. 6-Fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)benzo[b]thiophene-2-carboxylic acid
To a stirred solution of 635 mg (0.94 mmol) of 6-fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)-benzo[b]thiophene-2-carboxylic acid methyl ester in 10 mL of THF was treated a solution of 53 mg (0.94 mmol) of KOH in 0.5 mL of water. This was stirred overnight, after the hydrolysis was deemed complete 1 mL of 1 N HCl solution was added. This was then extracted with EtOAc (3×30 mL). The combined organic layers were then washed with brine, dried over Na2SO4, and concentrated to yield 622 mg (100%) of a white solid. MS (electrospray): exact mass calculated for C31H32F4N4O4S2: 664.18; m/z found, 665.2 [M+H]+. 1H NMR (DMSO-d6, 400 MHz): 8.12 (dd, J=8.81, 5.28 Hz, 1H), 7.83 and 7.76 (A and B of AB quartet, J=8.41 Hz, 4H), 7.17 (br t, J=8.61 Hz, 1H), 4.47 (s, 2H), 4.29 (br s, 1H), 4.16 (t, J=7.04 Hz, 2H), 3.53 (t, J=5.67 Hz, 2H), 3.28 (br m, 4H), 3.00 (s, 3H), 2.96 (m, 2H), 2.73 (br s, 2H), 2.52 (br m, 2H), 2.13 (br m, 2H), 1.76 (br m, 2H).

reactant | 6-fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)-benzo[b]thiophene-2-carboxylic acid methyl ester | 0.94 mmol, 635 mg | COC(=O)C1=C(C2=C(S1)C=C(C=C2)F)C2CCN(CC2)CCCN2N=C(C=1CN(CCC12)S(=O)(=O)C)C1=CC=C(C=C1)C(F)(F)F | C32H34F4N4O4S2
reactant | KOH | 0.94 mmol, 53 mg | [OH-].[K+]
reactant | HCl | 1 N, 1 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | 6-Fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)benzo[b]thiophene-2-carboxylic acid | 622 mg, 100% | FC=1C=CC2=C(SC(=C2C2CCN(CC2)CCCN2N=C(C=3CN(CCC32)S(=O)(=O)C)C3=CC=C(C=C3)C(F)(F)F)C(=O)O)C1 | C31H32F4N4O4S2
